US04485114
4'-[3-(Trifluoromethyl)phenoxy]acetophenone
A stirred mixture of 90.6 g of 3-(trifluoromethyl)phenol, 55.2 g of 4-fluoroacetophenone and 400 ml of dry dimethylacetamide was treated under argon with 71.9 g of anhydrous potassium carbonate in portions. The mixture was stirred and refluxed at 155°-160° C. on an oil bath for 18 hours. The mixture was cooled, poured into 1.5 Kg of ice and extracted with three portions of ether. The extracts were combined, washed successively with water, three 100 ml. portions of cold 1N sodium hydroxide, water and then brine, dried and evaporated to an oil. This oil was distilled at 105°-120° C., 0.15-0.20 mm Hg, giving the desired intermediate as an oil, bp 130°-142° C. (0.2 mm).

reactant | 3-(trifluoromethyl)phenol | 90.6 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | 4-fluoroacetophenone | 55.2 g | CC(=O)C1=CC=C(C=C1)F | C8H7FO
reactant | potassium carbonate | 71.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylacetamide | 400 ml | CC(=O)N(C)C | C4H9NO
product | 4'-[3-(Trifluoromethyl)phenoxy]acetophenone | FC(C=1C=C(OC2=CC=C(C=C2)C(C)=O)C=CC1)(F)F | C15H11F3O2
